US07241783B2
4-(4-carboxyphenyl)-1-(3,5-dibromo-2-hydroxybenzylidene)-3-thiosemicarbazide
A solution of 4-(4-carboxyphenyl)-3-thiosemicarbazide (25 mg, 0.12 mmol) and 3,5-dibromo-2-hydroxybenzaldehyde (40 mg, 0.144 mmol) in dimethylsulfoxide (1 mL) was shaken with 4 Å molecular sieves for 18 h. Dimethylformamide (1 mL) was added, followed by PS-TsNHNH2 resin (80 mg, 0.230 mmol), shaking continued for 24 h, then the resin filtered off. The solution was chromatographed by reverse phase HPLC (CombiPrep ODS-A, 10–90% acetonitrile/water+0.1% trifluoroacetic acid) to give the title compound (24 mg, 42%) as a solid. MS (ES−) m/e 470, 472, 474 [M−H]−.

reactant | 4-(4-carboxyphenyl)-3-thiosemicarbazide | 0.12 mmol, 25 mg | C(=O)(O)C1=CC=C(C=C1)NC(NN)=S | C8H9N3O2S
reactant | 3,5-dibromo-2-hydroxybenzaldehyde | 0.144 mmol, 40 mg | BrC=1C(=C(C=O)C=C(C1)Br)O | C7H4Br2O2
reactant | Dimethylformamide | 1 mL | CN(C=O)C | C3H7NO
reactant | TsNHNH2 | 0.230 mmol, 80 mg | S(=O)(=O)(C1=CC=C(C)C=C1)NN | C7H10N2O2S
solvent | dimethylsulfoxide | 1 mL | CS(=O)C | C2H6OS
product | 4-(4-carboxyphenyl)-1-(3,5-dibromo-2-hydroxybenzylidene)-3-thiosemicarbazide | 24 mg, 42% | C(=O)(O)C1=CC=C(C=C1)NC(NN=CC1=C(C(=CC(=C1)Br)Br)O)=S | C15H11Br2N3O3S
